US06897231B2
A. [3-(4-Fluorophenyl)(1H-indazol-5-yl)]-N-(2-methoxyethyl)carboxamide
The title compound was prepared as described in Example 76. To a solution of 3-(4-fluorophenyl)-1H-indazole-5-carboxylic acid (0.200 g, 0.781 mmol) in tetrahydrofuran (5 mL) was added 1-hydroxybenzotriazole hydrate (0.316 g, 2.34 mmol) followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.449 g, 2.34 mmol), 2-methoxyethylamine (0.203 mL, 2.34 mmol) and N,N-dimethylformamide (2 mL). The solution was stirred for 16 h at room temperature. Water (40 mL) was added and the reaction mixture was extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate, filtered and evaporated. The residue was purified by preparative HPLC (10-90% acetonitrile/water). The pure fractions were made basic with ammonium hydroxide, and the solution evaporated under reduced pressure, diluted with water and filtered to give the title compound (0.162 g, 66% yield): 1H NMR (DMSO-d6) δ 13.45 (s, 1H), 8.70 (t, 1H), 8.56 (s, 1H), 8.08 (AB quartet, 2H), 7.92 (dd, 1H), 7.63 (d, 1H), 7.40 (t, 2H), 3.49 (s, 3H), 3.34 (m, 2H), 3.28 (s, 2H); ES-MS (m/z) 314 [M+1]+.

reactant | 3-(4-fluorophenyl)-1H-indazole-5-carboxylic acid | 0.781 mmol, 0.200 g | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)O | C14H9FN2O2
reactant | 1-hydroxybenzotriazole hydrate | 2.34 mmol, 0.316 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.34 mmol, 0.449 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-methoxyethylamine | 2.34 mmol, 0.203 mL | COCCN | C3H9NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | Water | 40 mL | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | [3-(4-Fluorophenyl)(1H-indazol-5-yl)]-N-(2-methoxyethyl)carboxamide | 0.162 g, 66% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)NCCOC | C17H16FN3O2
